US07691898B2
(1) [5-(4-Ethylbenzyl)benzo[b]thiophen-2-phosphonic acid diethylester
To a solution of 5-(4-ethylbenzyl)benzo[b]thiophene (1.50 g) in THF (11.8 mL) was added 2.44 M n-butyllithium/n-hexane solution (2.9 mL) at −78° C., and the reaction mixture was stirred for 1 hr at same temperature. Diethyl chlorophosphate (0.9 mL) was added to the reaction mixture at −78° C., and the reaction mixture was stirred for 0.5 hr at −78° C. The reaction was quenched by the addition of saturated aqueous ammonium chloride and extracted with ethyl acetate. The combined ethyl acetate extracts were washed with brine, dried over anhydrous sodium sulfate and evaporated. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=1/2) to give the title compound (1.79 g) as a colorless oil.

reactant | 5-(4-ethylbenzyl)benzo[b]thiophene | 1.50 g | C(C)C1=CC=C(CC2=CC3=C(SC=C3)C=C2)C=C1 | C17H16S
reactant | n-butyllithium n-hexane | 2.44 M, 2.9 mL | C(CCC)[Li].CCCCCC
reactant | Diethyl chlorophosphate | 0.9 mL | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | THF | 11.8 mL | C1CCOC1 | C4H8O
product | 5-(4-Ethylbenzyl)benzo[b]thiophen-2-phosphonic acid diethylester | 1.79 g | C(C)OP(OCC)(=O)C1=CC2=C(S1)C=CC(=C2)CC2=CC=C(C=C2)CC | C21H25O3PS
